US05945426
2-Chloro-4-methyl-6-phenyl-1,3,5-triazine
In 85 ml of dry tetrahydrofuran was dissolved 17 g of 2,4-dichloro-6-phenyl-1,3,5-triazine. To this solution on an ice-water bath was added 135 ml of 1M methylmagnesium bromide-tetrahydrofuran dropwise over about 30 minutes. After completion of dropwise addition, the mixture was stirred at room temperature for 2 hours. This reaction mixture was poured into iced water and extracted with ethyl acetate. The extract was washed with water, dried over MgSO4, and concentrated. The residue was purified with silica gel column chromatography to provide 3.6 g of the title compound as white crystals.

reactant | 2,4-dichloro-6-phenyl-1,3,5-triazine | 17 g | ClC1=NC(=NC(=N1)Cl)C1=CC=CC=C1 | C9H5Cl2N3
reactant | methylmagnesium bromide tetrahydrofuran | 1M, 135 ml | C[Mg]Br.O1CCCC1
reactant | water | O | H2O
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
product | 2-Chloro-4-methyl-6-phenyl-1,3,5-triazine | 3.6 g | ClC1=NC(=NC(=N1)C)C1=CC=CC=C1 | C10H8ClN3
